US06080752
7-Methoxy-1,4,5,6-tetrahydro-2H-benzo[f]quinolin-3-one
A mixture of acrylamide (146 g, 2.0 mol) and 1-(5-methoxy-3,4-dihydronaphthalen-2-yl)pyrrolidine (156 g, 0.68 mol) was heated at 80° C. for 2 h and then 130° C. for a further 0.75 h. The mixture was cooled and water (1L) was added. The resultant brown precipitate was collected by filtration, washed with water and dried in vacuo. Trituration with hot ethanol (2L) gave the title compound as a white solid (35.9 g, 23%).

reactant | acrylamide | 2.0 mol, 146 g | C(C=C)(=O)N | C3H5NO
reactant | 1-(5-methoxy-3,4-dihydronaphthalen-2-yl)pyrrolidine | 0.68 mol, 156 g | COC1=C2CCC(=CC2=CC=C1)N1CCCC1 | C15H19NO
solvent | water | O | H2O
product | 7-Methoxy-1,4,5,6-tetrahydro-2H-benzo[f]quinolin-3-one | 35.9 g, 23% | COC1=CC=CC=2C=3CCC(NC3CCC21)=O | C14H15NO2
